US04226609
3-Trichloromethyl-5-(1-Pyrrolidinyl)-1,2,4-Thiadiazole
To 14.2 grams (0.2 mole) pyrrolidine in 100 milliliters ether was added 23.8 grams (0.1 mole) 3-trichloromethyl-5-chloro-1,2,4-thiadiazole in 100 milliliters ether. The solution was refluxed with stirring for one hour after addition. Filtration to remove salt by-products yielded a clear filtrate which was concentrated on a steam bath to give 16.4 grams (60% molar yield) of white solid. Recrystallization from ligroin yielded a pure product (melting point 105.5°-107° C.). The structure was confirmed via infrared and elemental analysis. Analysis for C7H8N3Cl3S:

reactant | pyrrolidine | 0.2 mole, 14.2 grams | N1CCCC1 | C4H9N
reactant | 3-trichloromethyl-5-chloro-1,2,4-thiadiazole | 0.1 mole, 23.8 grams | ClC(C1=NSC(=N1)Cl)(Cl)Cl | C3Cl4N2S
solvent | ether | 100 milliliters | CCOCC | C4H10O
solvent | ether | 100 milliliters | CCOCC | C4H10O
product | 3-Trichloromethyl-5-(1-Pyrrolidinyl)-1,2,4-Thiadiazole | ClC(C1=NSC(=N1)N1CCCC1)(Cl)Cl | C7H8Cl3N3S
